US04218448
By the method of Example 7, α-(chlorodifluoromethyl)-α-(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol is converted to α-(chlorodifluoromethyl)-α-trifluoromethyl)-1-(1,3-dioxobutyl)-2,3-dihydro-1H-indole-5-methanol, m.p. 160°-164°, which is cyclized by heating in sulfuric acid to give 1,2-dihydro-8 [2-chloro-2,2-difluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-6-methyl-4H-pyrrolo[3,-2,1-ij]quinolin-4-one, m.p. 294°-295°.

reactant | α-(chlorodifluoromethyl)-α-(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | ClC(C(O)(C=1C=C2CCNC2=CC1)C(F)(F)F)(F)F | C11H9ClF5NO
reactant | 1-(1,3-dioxobutyl)-2,3-dihydro-1H-indole-5-methanol | O=C(CC(C)=O)N1CCC2=CC(=CC=C12)CO | C13H15NO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1,2-dihydro-8 [2-chloro-2,2-difluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-6-methyl-4H-pyrrolo[3,-2,1-ij]quinolin-4-one | ClC(C(C(F)(F)F)(O)C=1C=C2C(=CC(N3C2=C(C1)CC3)=O)C)(F)F | C15H11ClF5NO2
